Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Dizziness, Unsteady Gait  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 Ms. ___ is a ___ year old woman with history of HTN, Pott's 
disease presents for evaluation of dizziness and chest 
discomfort since this morning. Some mild diaphoresis. Reports 
vertigo for 2 days. Patient currently denying chest pain or 
shortness of breath. Patient denies f/c, cough. Patient 
endorsing vertigo when sitting up and laying down but not at 
rest.  
 
 In the ED, initial vitals were:  
 97.3 90 137/80 18 98% RA  
 
 Exam notable for: ___ neg  
 ECG: afib rate 75, NA, NI, LVH; std I, aVL, V5, V6 ?early repol 
___ LVH. aVR with changes from prior
 Labs notable for: normal CBC, K 2.8, UA with few bacteria few 
leuks, trop <0.01  
 Imaging notable for: CTA performed without acute bleed, + 
chronic small vessel ischemia, normal vertebral arteries without 
significant stenosis  
 
 Patient was given: full dose ASA, 40mg PO K, 10mg IV K  
 neuro consulted and recommended: CTA head/neck to r/o 
vertebrobasilar syndrome 2. UA. If being admitted to medicine 
for new onset afib, will follow along on ___ consults.  
 
Past Medical History:
 ABDOMINAL PAIN  
 POTT'S DISEASE (TB)  
 BACK PAIN  
 MEDICATIONS:  

 
Social History:
 No EtOH nor cigarettes.   
 
Physical Exam:
DISCHARGE PHYSICAL EXAM

 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred; ___ beats nystagmus on lateral gaze
 
 
Pertinent Results:
PERTINENT LABS

___ 10:20PM   WBC-8.5 RBC-4.97 HGB-14.7 HCT-43.8 MCV-88 
MCH-29.6 MCHC-33.6 RDW-13.2 RDWSD-42.2
___ 10:20PM   NEUTS-65.8 ___ MONOS-9.1 EOS-1.1 
BASOS-0.5 IM ___ AbsNeut-5.60 AbsLymp-1.98 AbsMono-0.77 
AbsEos-0.09 AbsBaso-0.04
___ 10:20PM   PLT COUNT-188
___ 01:01PM   %HbA1c-5.8 eAG-120
___ 10:20PM   CK-MB-2 cTropnT-<0.01
___ 10:20PM   CK(CPK)-88
___ 10:20PM   GLUCOSE-88 UREA N-20 CREAT-1.0 SODIUM-136 
POTASSIUM-2.8* CHLORIDE-96 TOTAL CO2-25 ANION GAP-18
___ 01:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 01:30AM URINE  RBC-<1 WBC-5 BACTERIA-FEW YEAST-NONE 
EPI-1
___ 04:40AM   TSH-0.40
___ 04:40AM   cTropnT-<0.01
___ 04:40AM   GLUCOSE-105* UREA N-15 CREAT-0.8 SODIUM-143 
POTASSIUM-3.4 CHLORIDE-105 TOTAL CO2-26 ANION GAP-15
 
Brief Hospital Course:
 Ms. ___ is a ___ year old woman with history of HTN, Pott's 
disease presenting with chest pain and vertigo found to have new 
onset atrial fibrillation.  

 #Afib: New Afib diagnosis this admission in the setting of this 
vertigo. It was deemed possible that the patient had had afib 
subacutely but unknown history. Symptomatic with chest pain, 
notable EKG changes with irregularly irregular rhythm. No 
evidence of ischemia on ECG and trops x 2 negative. CHADS2VASC= 
3 (?DM)) but HbA1c < 6. Was monitored on class II tele and 
anticoagulted with aspirin. The patient and family were 
counseled extensively on the risk of stroke and the 
recommendation to initiate anticoagulation, but the patient and 
family preferred to discuss at length with PCP rather than start 
a new medication here.  She was started on aspirin and her PCP 
was notified via e-mail of the situation.

 #Vertigo: Likely peripheral vertigo but dx includes 
vertebrobasilar insufficiency. Evaluated by neuro in ED, exam 
with R betaing nystagmus on R gaze that extinguishes. Negative 
___. CTA head/neck was without e/o significant 
atherosclerosis of the major arteries of the head and neck.  Pt 
was seen by neurology team which deemed that a central vertigo 
etiology was not likely. Pt was nevertheless given aspirin per 
Afib as above. Pt also given meclizine which helped symptoms. Pt 
was discharged with Rx for meclizine to be taken as needed. Pt 
with much improved symptoms at time of discharge.

TRANSITIONAL ISSUES
================
- Recommend ENT or neurology follow-up. Per neurology, recommend 
vestibular testing
- Recommend vestibular physical therapy
- Recommend discussing with PCP about whether patient would like 
to be anticoagulated with decision of using either Coumadin or 
the new anticoagulating agents to be discussed
- Per cardiology, recommend considering an outpatient, likely 
pharmacological, stress test.
- Continue BP optimization
- Patient with incidental thyroid nodule to be followed up on. 
Normal TSH and T4.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Celecoxib 200 mg ORAL DAILY:PRN pain 
3. Hydrochlorothiazide 25 mg PO DAILY:PRN ___ swelling 
4. NIFEdipine CR 30 mg PO DAILY 
5. Valsartan 160 mg PO QPM 
6. Multivitamins 1 TAB PO DAILY 
7. Acetaminophen w/Codeine 1 TAB PO DAILY:PRN Pain - Moderate 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*90 Tablet 
Refills:*0 
2.  Meclizine 12.5 mg PO Q6H:PRN Dizziness 
RX *meclizine 12.5 mg 1 tablet(s) by mouth Every 6 hours as 
needed Disp #*30 Tablet Refills:*1 
3.  Acetaminophen w/Codeine 1 TAB PO DAILY:PRN Pain - Moderate  
4.  Atenolol 25 mg PO DAILY  
5.  Celecoxib 200 mg ORAL DAILY:PRN pain  
6.  Hydrochlorothiazide 25 mg PO DAILY:PRN ___ swelling  
7.  Multivitamins 1 TAB PO DAILY  
8.  NIFEdipine CR 30 mg PO DAILY  
9.  Valsartan 160 mg PO QPM  
10.Outpatient Physical Therapy
Vestibular Physical Therapy for Vertigo

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
peripheral vertigo
new-onset atrial fibrillation

SECONDARY DIAGNOSIS
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for your abnormal heart rhythm and dizziness. 
You were found to have vertigo and were given medicine to help 
for the dizziness. You will need to follow-up with your primary 
care doctor who can refer you to get vestibular testing. They 
may refer you to a neurologist or ear, nose and throat doctor.

For your abnormal heart rhythm called atrial fibrillation, you 
were started on aspirin which you should took daily. Please 
follow up with your primary care doctor in ___ weeks after you 
are discharged. You should discuss further with your primary 
care doctor about possible blood thinners as you are at higher 
risk of stroke with atrial fibrillation.

Our cardiologist also saw you in the emergency room and 
recommend your primary care doctor to consider an outpatient 
stress test for further evaluation.

You also had a thyroid nodule that your primary care doctor 
should follow-up.

It was a pleasure taking care of you at ___!
Your ___ Team
 
Followup Instructions:
___